### PR TITLE
[Merged by Bors] - feat: a complex differentiable function on a disk has a primitive

### PR DESCRIPTION
**Pull request by AlexKontorovich**
We prove that holomorphic functions on discs have primitives. TODO: Extend to holomorphic functions on simply connected domains, and use this to define general complex logarithms.

Co-authored by: Ian Jauslin ian.jauslin@rutgers.edu

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Complex/HasPrimitives.lean [hunk 1]
```diff
@@ -0,0 +1,491 @@
...
+  calc
+    _ = intI + I * intII - ((w - z).re + (w - z).im * I) * f z := by congr; rw [re_add_im]
+    _ = intI + I * intII - ((w.re - z.re) + (w.im - z.im) * I) * f z := by simp
+    _ = intI - (w.re - z.re) * f z + I * (intII - (w.im - z.im) * f z) := by ring
+
+end WedgeIntDeriv
+
+/-- *** Moreira's theorem *** A function which is continuous on a disc and whose integral on
+  rectangles in the disc vanishes has a primitive on the disc. -/
+theorem moreiras_theorem {c : ℂ} {r : ℝ} {f : ℂ → ℂ} (f_cont : ContinuousOn f (ball c r))
```
Comment (loefflerd) [inline Mathlib/Analysis/Complex/HasPrimitives.lean:456]: I wonder if this should be given a name reflecting its content, rather than its discoverer? This is the general mathlib convention – e.g., to pick a random example, the Hahn-Banach theorem is called `exists_extension_norm_eq`, not `hahn_banach_theorem`.

Comment (AlexKontorovich) [inline Mathlib/Analysis/Complex/HasPrimitives.lean:456]:
```suggestion
theorem VanishesOnRectanglesInDisc.hasPrimitive {c : ℂ} {r : ℝ} {f : ℂ → ℂ} (f_cont : ContinuousOn f (ball c r))
```

File: Mathlib/Analysis/Complex/HasPrimitives.lean [hunk 2]
```diff
@@ -0,0 +1,491 @@
...
+## Main results
+
+* `VanishesOnRectanglesInDisc.diff_of_wedges`: If a function `f` vanishes on all rectangles in a
+  disc with center `c`, then the wedge integral from `c` to `w` minus the wedge integral from
+  `c` to `z` is equal to the wedge integral from `z` to `w`.
+
+* `deriv_of_wedgeInt`: The derivative of the wedge integral is the function being integrated.
+
+* `moreiras_theorem`: A function which is continuous on a disc and whose integral on
+  rectangles in the disc vanishes has a primitive on the disc (defined by the wedge integral).
```
Comment (AlexKontorovich) [inline Mathlib/Analysis/Complex/HasPrimitives.lean:30]:
```suggestion
* `VanishesOnRectanglesInDisc.hasPrimitive`: **Moreira's Theorem**: A function which is 
  continuous on a disc and whose integral on rectangles in the disc vanishes has a primitive
  on the disc (defined by the wedge integral).
```

File: Mathlib/Analysis/Complex/HasPrimitives.lean [hunk 3]
```diff
@@ -0,0 +1,491 @@
...
+/-- If `f` is holomorphic a disc, then `f` vanishes on rectangles in the disc. -/
+theorem vanishesOnRectanglesInDisc_of_holomorphic {c : ℂ} {r : ℝ} {f : ℂ → ℂ}
+    (f_holo : HolomorphicOn f (ball c r)) :
+    VanishesOnRectanglesInDisc c r f := fun _ _ hz hw hz' hw' ↦
+  f_holo.vanishesOnRectangle (rectangle_in_convex (convex_ball c r) hz hw hz' hw')
+
+/-- *** Holomorphic functions on discs have Primitives *** A holomorphic function on a disc has
+  primitives. -/
+theorem hasPrimitives_on_disc (c : ℂ) {r : ℝ} : HasPrimitives (ball c r) := fun _ f_holo ↦
+  moreiras_theorem f_holo.continuousOn (vanishesOnRectanglesInDisc_of_holomorphic f_holo)
```
Comment (AlexKontorovich) [inline Mathlib/Analysis/Complex/HasPrimitives.lean:489]:
```suggestion
  (vanishesOnRectanglesInDisc_of_holomorphic f_holo).hasPrimitives f_holo.continuousOn
```

File: Mathlib/Analysis/Complex/HasPrimitives.lean [hunk 4]
```diff
@@ -0,0 +1,492 @@
...
+    _ = intI + I * intII - ((w - z).re + (w - z).im * I) * f z := by congr; rw [re_add_im]
+    _ = intI + I * intII - ((w.re - z.re) + (w.im - z.im) * I) * f z := by simp
+    _ = intI - (w.re - z.re) * f z + I * (intII - (w.im - z.im) * f z) := by ring
+
+end WedgeIntDeriv
+
+/-- *** Moreira's theorem *** A function which is continuous on a disc and whose integral on
+  rectangles in the disc vanishes has a primitive on the disc. -/
+theorem VanishesOnRectanglesInDisc.hasPrimitive {c : ℂ} {r : ℝ} {f : ℂ → ℂ} (f_cont : ContinuousOn f (ball c r))
+    (hf : VanishesOnRectanglesInDisc c r f) :
```
Comment (AlexKontorovich) [inline Mathlib/Analysis/Complex/HasPrimitives.lean:458]:
```suggestion
theorem VanishesOnRectanglesInDisc.hasPrimitive {c : ℂ} {r : ℝ} {f : ℂ → ℂ}
    (f_cont : ContinuousOn f (ball c r)) (hf : VanishesOnRectanglesInDisc c r f) :
```

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 5]
```diff
@@ -584,28 +587,28 @@ Cauchy integral formulas. See also
...
-theorem _root_.DifferentiableOn.analyticOn {s : Set ℂ} {f : ℂ → E} (hd : DifferentiableOn ℂ f s)
+theorem _root_.DifferentiableOn.analyticOn {s : Set ℂ} {f : ℂ → E} (hd : HolomorphicOn f s)
     (hs : IsOpen s) : AnalyticOn ℂ f s := fun _z hz => hd.analyticAt (hs.mem_nhds hz)
 #align differentiable_on.analytic_on DifferentiableOn.analyticOn
 
 /-- If `f : ℂ → E` is complex differentiable on some open set `s`, then it is continuously
 differentiable on `s`. -/
-protected theorem _root_.DifferentiableOn.contDiffOn {s : Set ℂ} {f : ℂ → E} {n : ℕ}
-    (hd : DifferentiableOn ℂ f s) (hs : IsOpen s) : ContDiffOn ℂ n f s :=
+protected theorem _root_.DifferentiableOn.contDiffOn {s : Set ℂ} {f : ℂ → E}
```
Comment (AlexKontorovich) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean:610]:
```suggestion
protected theorem _root_.DifferentiableOn.contDiffOn {s : Set ℂ} {f : ℂ → E} {n : ℕ}
```

**Comment by urkud** [comment]
I'm going to have a look over the week-end.

File: Mathlib/Analysis/Complex/HasPrimitives.lean [hunk 6]
```diff
@@ -0,0 +1,492 @@
...
+
+/-!
+# Primitives of Holomorphic Functions
+
+In this file, we give conditions under which holomorphic functions have primitives. The main goal
+is to prove that holomorphic functions on simply connected domains have primitives. As a first step,
+we prove that holomorphic functions on discs have primitives. The approach is based on Moreira's
+theorem, that a continuous function (on a disc) whose `RectangleIntegral` vanishes on all
+rectangles contained in the disc has a primitive. (Coupled with the fact that holomorphic functions
+satisfy this propoerty.) To prove Moreira's theorem, we first define the `WedgeInt`, which is the
```
Comment (AlexKontorovich) [inline Mathlib/Analysis/Complex/HasPrimitives.lean:17]:
```suggestion
satisfy this property.) To prove Morera's theorem, we first define the `WedgeInt`, which is the
```

File: Mathlib/Analysis/Complex/HasPrimitives.lean [hunk 7]
```diff
@@ -0,0 +1,492 @@
...
+
+## Main results
+
+* `VanishesOnRectanglesInDisc.diff_of_wedges`: If a function `f` vanishes on all rectangles in a
+  disc with center `c`, then the wedge integral from `c` to `w` minus the wedge integral from
+  `c` to `z` is equal to the wedge integral from `z` to `w`.
+
+* `deriv_of_wedgeInt`: The derivative of the wedge integral is the function being integrated.
+
+* `VanishesOnRectanglesInDisc.hasPrimitive`: **Moreira's Theorem**: A function which is
```
Comment (AlexKontorovich) [inline Mathlib/Analysis/Complex/HasPrimitives.lean:29]:
```suggestion
* `VanishesOnRectanglesInDisc.hasPrimitive`: **Morera's Theorem**: A function which is
```

File: Mathlib/Analysis/Complex/HasPrimitives.lean [hunk 8]
```diff
@@ -0,0 +1,492 @@
...
+  set intI := ∫ (x : ℝ) in z.re..w.re, f (x + z.im * I)
+  set intII := ∫ (y : ℝ) in z.im..w.im, f (w.re + y * I)
+  calc
+    _ = intI + I * intII - ((w - z).re + (w - z).im * I) * f z := by congr; rw [re_add_im]
+    _ = intI + I * intII - ((w.re - z.re) + (w.im - z.im) * I) * f z := by simp
+    _ = intI - (w.re - z.re) * f z + I * (intII - (w.im - z.im) * f z) := by ring
+
+end WedgeIntDeriv
+
+/-- *** Moreira's theorem *** A function which is continuous on a disc and whose integral on
```
Comment (AlexKontorovich) [inline Mathlib/Analysis/Complex/HasPrimitives.lean:455]:
```suggestion
/-- *** Morera's theorem *** A function which is continuous on a disc and whose integral on
```

**Comment by urkud** [comment]
I'm very sorry for the delay. I'll review tonight or tomorrow in the morning.

**Comment by AlexKontorovich** [comment]
No rush! I know you're doing a million things at once...

File: Mathlib/Analysis/Complex/HasPrimitives.lean [hunk 9]
```diff
@@ -0,0 +1,492 @@
...
+    s ×ℂ t ⊆ s₁ ×ℂ t₁ ↔ s ⊆ s₁ ∧ t ⊆ t₁ ∨ s = ∅ ∨ t = ∅ := by
+  convert prod_subset_prod_iff
+  exact reProdIm_subset_iff
+
+end reProdIm
+
+section Rectangle
+
+/-- A `Rectangle` is an axis-parallel rectangle with corners `z` and `w`. -/
+def Rectangle (z w : ℂ) : Set ℂ := [[z.re, w.re]] ×ℂ [[z.im, w.im]]
```
Comment (urkud) [inline Mathlib/Analysis/Complex/HasPrimitives.lean:95]: If we introduce this definition, then it should be near `reProdIm` (if `uIcc` is available there), and existing code should be migrated to it.

**Comment by urkud** [comment]
It should be possible to prove the main theorem for any function `f : Complex -> E`, where `E` is a complex Banach space.

File: Mathlib/Analysis/Complex/HasPrimitives.lean (hunk 9 above)
Comment (AlexKontorovich) [reply Mathlib/Analysis/Complex/HasPrimitives.lean]: ok, attempting refactor...

**Comment by AlexKontorovich** [comment]
> It should be possible to prove the main theorem for any function `f : Complex -> E`, where `E` is a complex Banach space.

Ok, should be done now. Thanks!

File: Mathlib/Analysis/Complex/HasPrimitives.lean [hunk 10]
```diff
@@ -0,0 +1,435 @@
...
+## Tags
+  Holomorphic functions, primitives
+
+TODO: Extend to holomorphic functions on simply connected domains. (In particular, this allows one
+to define the complex logarithm of a nonvanishing function on a simply connected domain.)
+-/
+
+open Complex Topology Set Metric
+
+set_option autoImplicit true
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/HasPrimitives.lean:44]: Could you remove this? Mostly, it confuses people.

Comment (AlexKontorovich) [reply Mathlib/Analysis/Complex/HasPrimitives.lean]: Hmm why did I think I needed that? Looks like I don't. It's gone. Thanks!

**Comment by urkud** [comment]
I think about proving Poincaré theorem for any smoothly contractible domain, then this will be an easy corollary. If I don't do this by this Sunday, then I'll review the details of your proof.

**Comment by AlexKontorovich** [comment]
> I think about proving Poincaré theorem for any smoothly contractible domain, then this will be an easy corollary. If I don't do this by this Sunday, then I'll review the details of your proof.

Any luck? Thanks!

**Comment by grunweg** [comment]
Coming here from PR triage: it seems this is waiting for review by @urkud.
@AlexKontorovich In the mean time, can you merge master, please? Reviewing code which applies to current mathlib is always nicer... Thanks!

**Comment by vbeffara** [comment]
To show existence of primitives on balls, is seems that using `Complex.hasSum_taylorSeries_on_ball` and constructing a formal primitive of the Taylor series would be quicker than going through Morera (the way I learned it went through Morera -> holomorphic functions are C1 -> Cauchy formula -> everything else, the first step of which is matches this PR, but that feels a little like reinventing things that are in Mathlib already).

OTOH I know that rectangle integration is fundamental in PNT+ so it makes sense to have API for it in Mathlib.

**Comment by AlexKontorovich** [comment]
> To show existence of primitives on balls, is seems that using `Complex.hasSum_taylorSeries_on_ball` and constructing a formal primitive of the Taylor series would be quicker than going through Morera (the way I learned it went through Morera -> holomorphic functions are C1 -> Cauchy formula -> everything else, the first step of which is matches this PR, but that feels a little like reinventing things that are in Mathlib already).

Yeah, that's a good point. I'm happy to abandon this approach entirely and switch to Taylor series. (This was a good warmup for understanding how to do PNT, but may no longer be necessary, having served its purpose...)

> OTOH I know that rectangle integration is fundamental in PNT+ so it makes sense to have API for it in Mathlib.

I wouldn't say that it's "fundamental" (in theory, we should eventually have the Jordan curve theorem, and be able to work more like the natural language proof...), but certainly it's proved useful to move things along...

**Comment by vbeffara** [comment]
> I wouldn't say that it's "fundamental" (in theory, we should eventually have the Jordan curve theorem, and be able to work more like the natural language proof...), but certainly it's proved useful to move things along...

Sure, let's say essential to the current proof then :-)

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 11]
```diff
@@ -566,24 +569,24 @@ Cauchy integral formulas. See also
...
   exact ((hd.mono hRs).hasFPowerSeriesOnBall hR0).analyticAt
 
 theorem _root_.DifferentiableOn.analyticOnNhd {s : Set ℂ} {f : ℂ → E} (hd : DifferentiableOn ℂ f s)
     (hs : IsOpen s) : AnalyticOnNhd ℂ f s := fun _z hz => hd.analyticAt (hs.mem_nhds hz)
 
-theorem _root_.DifferentiableOn.analyticOn {s : Set ℂ} {f : ℂ → E} (hd : DifferentiableOn ℂ f s)
+theorem _root_.DifferentiableOn.analyticOn {s : Set ℂ} {f : ℂ → E} (hd : HolomorphicOn f s)
     (hs : IsOpen s) : AnalyticOn ℂ f s :=
-  (hd.analyticOnNhd hs).analyticOn
+  fun _z hz => (hd.analyticAt (hs.mem_nhds hz)).analyticWithinAt
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]:
```suggestion
  (hd.analyticOnNhd hs).analyticOn
```
I think the original proof is perfectly fine, no?

File: Mathlib/Analysis/Complex/HasPrimitives.lean [hunk 12]
```diff
@@ -0,0 +1,448 @@
...
+-/
+import Mathlib.Analysis.Complex.CauchyIntegral
+import Mathlib.Analysis.Complex.Convex
+
+/-!
+# Primitives of Holomorphic Functions
+
+In this file, we give conditions under which holomorphic functions have primitives. The main goal
+is to prove that holomorphic functions on simply connected domains have primitives. As a first step,
+we prove that holomorphic functions on discs have primitives. The approach is based on Morera's
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/HasPrimitives.lean]: The rule is to follow the author preferences regarding spelling when several forms are acceptable. However, for things that show up in lemma names I'd rather have a standard spelling throughout mathlib. Since `disc` is often used for `discriminant`, I'd rather go with `disk` to avoid ambiguities. What do you think?

File: Mathlib/Analysis/Complex/HasPrimitives.lean [hunk 13]
```diff
@@ -0,0 +1,448 @@
...
+  rw [← Complex.sub_im]
+  exact abs_im_le_norm (w - z)
+
+end Asymptotics
+
+section Rectangle
+
+/-- The axis-parallel complex rectangle with opposite corners `z` and `w` is complex product
+  of two intervals, which is also the convex hull of the four corners. -/
+lemma segment_reProdIm_segment_eq_convexHull (z w : ℂ) :
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/HasPrimitives.lean]: The names used in lemmas should correspond to the Lean names of the objects, otherwise lemma names are impossible to use. So here it could be something like
```suggestion
lemma uIcc_re_prod_uIcc_im_eq_convexHull (z w : ℂ) :
```
(To see that the segment is named `uIcc`, use the go to definition functionality on the notation)

File: Mathlib/Analysis/Complex/HasPrimitives.lean [hunk 14]
```diff
@@ -0,0 +1,448 @@
...
+    [[z.re, w.re]] ×ℂ [[z.im, w.im]] = convexHull ℝ {z, z.re + w.im * I, w.re + z.im * I, w} := by
+  simp_rw [← segment_eq_uIcc, ← convexHull_pair, ← convexHull_reProdIm,
+    ← preimage_equivRealProd_prod, insert_prod, singleton_prod, image_pair,
+    insert_union, ← insert_eq, preimage_equiv_eq_image_symm, image_insert_eq, image_singleton,
+    equivRealProd_symm_apply, re_add_im]
+
+/-- If the four corners of a rectangle are contained in a convex set `U`, then the whole
+  rectangle is. -/
+lemma rectangle_in_convex {U : Set ℂ} (U_convex : Convex ℝ U) {z w : ℂ} (hz : z ∈ U)
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/HasPrimitives.lean]:
```suggestion
lemma Convex.rectangle_subset {U : Set ℂ} (U_convex : Convex ℝ U) {z w : ℂ} (hz : z ∈ U)
```

File: Mathlib/Analysis/Complex/HasPrimitives.lean [hunk 15]
```diff
@@ -0,0 +1,448 @@
...
+    (hw : w ∈ U) (hzw : (z.re + w.im * I) ∈ U) (hwz : (w.re + z.im * I) ∈ U) :
+    Rectangle z w ⊆ U := by
+  rw [Rectangle, segment_reProdIm_segment_eq_convexHull]
+  convert convexHull_min ?_ (U_convex)
+  refine insert_subset hz (insert_subset hzw (insert_subset hwz ?_))
+  exact singleton_subset_iff.mpr hw
+
+/-- If `z` is in a ball centered at `c`, then `z.re + c.im * I` is in the ball. -/
+lemma cornerRectangle_in_disc {c : ℂ} {r : ℝ} {z : ℂ} (hz : z ∈ ball c r) :
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/HasPrimitives.lean]:
```suggestion
lemma re_add_im_mul_mem_ball {c : ℂ} {r : ℝ} {z : ℂ} (hz : z ∈ ball c r) :
```

File: Mathlib/Analysis/Complex/HasPrimitives.lean [hunk 16]
```diff
@@ -0,0 +1,448 @@
...
+  simp only [_root_.sq_abs, le_add_iff_nonneg_right]
+  exact sq_nonneg _
+
+end Rectangle
+
+section SubsetBall_Aux
+
+/- Auxiliary lemmata about subsets of balls -/
+
+lemma mem_ball_re_aux {c : ℂ} {r : ℝ} {z : ℂ} :
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/HasPrimitives.lean]:
```suggestion
private lemma mem_ball_re_aux {c z : ℂ} {r : ℝ} :
```
This lemma and the next ones are purely technical, so I would mark them as `private`. This way, I won't bikeshed on their names :-)

File: Mathlib/Analysis/Complex/HasPrimitives.lean (hunk 12 above)
Comment (AlexKontorovich) [reply Mathlib/Analysis/Complex/HasPrimitives.lean]: sure, happy to go with disk

**Comment by AlexKontorovich** [comment]
Oh I see... I'm no longer able to make changes to this, because of the new PR protocol (but Oliver was able to, of course, since he's a maintainer). Ugh. Can you please remind me the process for moving PRs to forks, without losing all the comments? Anyway, I agree to all the suggested changes; I just don't have the option to accept them myself... Thanks!

**Comment by ocfnash** [comment]
> Oh I see... I'm no longer able to make changes to this, because of the new PR protocol (but Oliver was able to, of course, since he's a maintainer). Ugh. Can you please remind me the process for moving PRs to forks, without losing all the comments? Anyway, I agree to all the suggested changes; I just don't have the option to accept them myself... Thanks!

@AlexKontorovich The new workflow is to create from a fork, clone that locally, do all your work in this new local clone, and then PR from a branch of that repo into the master branch on the real Mathlib. We actually have [a script](https://github.com/leanprover-community/mathlib4/blob/master/scripts/migrate_to_fork.py) that will create the fork AND migrate an existing PR like this into a new PR from the fork.

Even maintainers who have retained write access to Mathlib should and do follow this workflow.

However I was thinking of adopting this PR for you and making an exception in this case. Would that help, or would you prefer to continue working with this PR yourself?

**Comment by AlexKontorovich** [comment]
If you were willing to adopt it, that would be amazing, thanks! Please let me know if there's anything I should do from my end.

**Comment by ocfnash** [comment]
> If you were willing to adopt it, that would be amazing, thanks! Please let me know if there's anything I should do from my end.

OK great, I'll get this over the line!

**Comment by ocfnash** [comment]
I think this PR is ready for review now. Points I see for discussion are:

1. ~~Do we definitely want to introduce the `abbrev HolomorphicOn`? If so we'll also have to have `Holomorphic`, `HolomorphicAt` and potentially have issues with dot notation.~~ Resolved: if we do this, it should be separate PR
2. Are the names `Complex.IsClosedOn` and `Complex.IsExactOn` (suggested by me) desirable?
3. Are we interested in golfing the `private` auxiliary lemmas?

**Comment by AlexKontorovich** [comment]
> I think this PR is ready for review now. Points I see for discussion are:
> 
> 1. Do we definitely want to introduce the `abbrev HolomorphicOn`? If so we'll also have to have `Holomorphic`, `HolomorphicAt` and potentially have issues with dot notation.
> 2. Are the names `Complex.IsClosedOn` and `Complex.IsExactOn` (suggested by me) desirable?
> 3. Are we interested in golfing the `private` auxiliary lemmas?

About (1.), there's a zulip thread: [#PR reviews > &#96;HolomorphicOn&#96; and &#96;HolomorphicAt&#96; @ 💬](https://leanprover.zulipchat.com/#narrow/channel/144837-PR-reviews/topic/.60HolomorphicOn.60.20and.20.60HolomorphicAt.60/near/483518741)

**Comment by ocfnash** [comment]
> About (1.), there's a zulip thread: [#PR reviews > `HolomorphicOn` and `HolomorphicAt` @ 💬](https://leanprover.zulipchat.com/#narrow/channel/144837-PR-reviews/topic/.60HolomorphicOn.60.20and.20.60HolomorphicAt.60/near/483518741)

Thanks, I'd forgotten about this thread: it's very useful to reread it.

With this in mind, I'm going to take the view that the decision about `HolomorphicOn` is independent of the other work here and so back out this change.

File: Mathlib/Analysis/Complex/HasPrimitives.lean [hunk 17]
```diff
@@ -0,0 +1,270 @@
...
+      (∫ x : ℝ in z.re..w.re, f (x + w.im * I)) +
+      I • (∫ y : ℝ in z.im..w.im, f (w.re + y * I)) -
+      I • (∫ y : ℝ in z.im..w.im, f (z.re + y * I)) := by
+  simp only [wedgeIntegral, intervalIntegral.integral_symm z.re w.re,
+    intervalIntegral.integral_symm z.im w.im, smul_neg]
+  abel
+
+/-- A function `f` `IsClosedOn` in `U` if, for any rectangle contained in `U`
+  the integral of `f` over the rectangle is zero. -/
+def IsClosedOn (f : ℂ → E) (U : Set ℂ) : Prop :=
```
Comment (mattrobball) [inline Mathlib/Analysis/Complex/HasPrimitives.lean]:
```suggestion
def IsConservativeOn (f : ℂ → E) (U : Set ℂ) : Prop :=
```
I understand the current naming reasoning but it still is passing through some nontrivial conservative <-> closed via Stokes.

**Review by mattrobball — COMMENTED** [review]
Other than this, looks good!

File: Mathlib/Analysis/Complex/HasPrimitives.lean (hunk 17 above)
Comment (ocfnash) [reply Mathlib/Analysis/Complex/HasPrimitives.lean]: Thanks, I much prefer your name (for the reason you state).

**Comment by ocfnash** [comment]
@mattrobball remarked elsewhere that another possible name for `wedgeIntegral` could be `taxicabIntegral` (or similar).

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
